US07220734B2
Step C: 3-(1-Oxo-5-indanyl)-5-(4-(2-methylpropyl)phenyl)-1,2,4-oxadiazole
A solution of 4-(2-methylpropyl)benzoic acid (2.74 g, 15.44 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.95 g, 15.44 mmol) and 1-hydroxybenzotriazole hydrate (2.08 g, 15.44 mmol) in DMF (50 mL) was stirred at rt for 30 min. N-Hydroxy (1-hydroxy-5-indanyl)amidine (from Step B) was added and the reaction was first stirred at rt for 1 h, then heated to 80° C. for 18 h. The reaction was cooled, diluted with water (100 mL) and the product extracted into methylene chloride (2×100 mL). The combined organics were dried over magnesium sulfate and concentrated in vacuo to give an oil. This oil was dissolved in methylene chloride (30 mL) and Dess-martin periodinane (5 g) was added. After stirring for 1 h, 2N NaOH (100 mL) was added to the reaction and the product extracted into methylene chloride (3×100 mL). The combined organics were dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography eluting with 15% ethyl acetate/hexanes gave 1.6 g (4.48 mmol) of the title compound as a yellow solid: 1H NMR (500 MHz, CDCl3) δ 8.31 (s, 1H), 8.20 (d, J=8.0 Hz, 1H), 8.13 (d, J=8.2 Hz, 2H), 7.88 (d, J=8.0 Hz, 1H), 7.34 (d, J=8.3 Hz, 2H), 3.25 (t, J=6.0 Hz, 2H), 2.77 (t, J=6.0 Hz, 2H), 2.58 (d, J=7.1 Hz, 2H), 1.90–1.98 (m, 1H), 0.94 (d, J=6.6 Hz, 6H); ESI-MS 333.1 (M+H).

reactant | 4-(2-methylpropyl)benzoic acid | 15.44 mmol, 2.74 g | CC(CC1=CC=C(C(=O)O)C=C1)C | C11H14O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 15.44 mmol, 2.95 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 15.44 mmol, 2.08 g | O.ON1N=NC2=C1C=CC=C2
reactant | Dess-martin periodinane | 5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 2N, 100 mL | [OH-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-Oxo-5-indanyl)-5-(4-(2-methylpropyl)phenyl)-1,2,4-oxadiazole | 4.48 mmol, 1.6 g | O=C1CCC2=CC(=CC=C12)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C21H20N2O2
